US09340506B2
Methyl 2-(6-cyclopentylsulfonyl-3-pyridyl)-2-tetrahydropyran-4-yloxy-acetate
Methyl 2-(6-cyclopentylsulfonyl-3-pyridyl)-2-diazo-acetate (0.25 g, 0.80 mmol) was dissolved in DCM (5 mL) under argon atmosphere. To this solution, 4-hydroxy tetrahydropyran (0.11 mL, 1.21 mmol) was added followed by rhodium (II) acetate dimer (9 mg, 0.021 mmol). Mixture was stirred at 25° C. for 60 min. Reaction mixture was diluted with DCM (10 mL), organic layer was washed with water followed by brine solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give a crude product (280 mg).

reactant | Methyl 2-(6-cyclopentylsulfonyl-3-pyridyl)-2-diazo-acetate | 0.80 mmol, 0.25 g | C1(CCCC1)S(=O)(=O)C1=CC=C(C=N1)C(C(=O)OC)=[N+]=[N-] | C13H15N3O4S
reactant | 4-hydroxy tetrahydropyran | 1.21 mmol, 0.11 mL | OC1CCOCC1 | C5H10O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 0.021 mmol, 9 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Methyl 2-(6-cyclopentylsulfonyl-3-pyridyl)-2-tetrahydropyran-4-yloxy-acetate | 280 mg | C1(CCCC1)S(=O)(=O)C1=CC=C(C=N1)C(C(=O)OC)OC1CCOCC1 | C18H25NO6S
